US08460862B2
To a stirred solution of N—BOC-ethylenediamine (500 mg, 3.12 mmol) in MeOH (15 mL) were added heptanal (802 mg, 7.02 mmol) followed by sodium cyanoborohydride (588 mg, 9.36 mmol) and the reaction was stirred overnight at room temperature. The reaction was concentrated on a rotevaporator and the concentrate was diluted with water (50 mL). The pH was lowered to ˜2 with 6 N HCl and the acidic solution was extracted with ethylacetate (3×100 mL). The layer was washed with 0.1 N NaOH (1×100 mL) and brine (2×100 mL) and the solvent was removed. The product was isolated by column chromatography on silica gel. The solvent was removed from the product fractions and the residue was dried in vacuo at room temperature to yield two major products N—BOC—N′,N′-diheptylethylenediamine (0.51 g, 46%): TLC (silica gel, 1 MeOH:9 CH2Cl2) Rf=0.81; and N—BOC—N′-heptylethylenediamine (0.23 g, 15%): TLC (silicagel 9:1 dichloromethane:methanol) Rf=0.66.

reactant | N—BOC-ethylenediamine | 3.12 mmol, 500 mg | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
reactant | heptanal | 7.02 mmol, 802 mg | C(CCCCCC)=O | C7H14O
reactant | sodium cyanoborohydride | 9.36 mmol, 588 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | N—BOC—N′,N′-diheptylethylenediamine | 0.51 g, 46% | C(=O)(OC(C)(C)C)NCCN(CCCCCCC)CCCCCCC | C21H44N2O2
